*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXN160ARA331MJ80G
*//   Date        : 2019/06/3
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2019 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXN160ARA331MJ80G_20deg-C 1 2

C1 4 2 2.72e-04
C2 5 2 5.21e-05
C3 6 2 7.05e-06
R1 3 4 1.36e-02
R2 4 5 9.44e-02
R3 5 6 9.41e+00
L1 1 3 4.20e-09

.ENDS
*$
